US06355635B1
2-{4-[5-(4-Phenyl-1H-imidazol-2-yl)-pyridin-2-yl]-piperazin-1-yl}-pyrimidine:
(Reference: J. Am. Chem. Soc. 1954, 1484) A solution of 1-[5(5-phenyl-1H-imidazol-2-yl)-pyridin-2-yl]-piperazine (0.16 g, 0.52 mmol), triethylamine (0.22 ml, 0.16 g, 1.58 mmol, 3.0 equiv) and 2-chloro-pyrimidine (0.90 mg, 0.79 mmol, 1.5 equiv) in absolute ethanol (5 ml) under nitrogen atmosphere was heated at reflux for 1 hour, after which additional triethylamine (0.22 ml, 0.16 g, 1.58 mmol, 3.0 equiv) and 2-chloro-pyrimidine (0.90 mg, 0.79 mmol, 1.5 equiv) were added. The reaction was heated at reflux for an additional 1.5 hour, then stirred at room temperature for two days. The mixture was basified to pH 10 with concentrated ammonium hydroxide, and then concentrated in vacuo. The residue was partitioned between water (20 ml) and ethyl acetate (50 ml). The organic phase was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to a solid, which was triturated with ether to give the desired product (0.15 g, 74%). MS m/z 446 (M++1).

reactant | 1-[5(5-phenyl-1H-imidazol-2-yl)-pyridin-2-yl]-piperazine | 0.52 mmol, 0.16 g | C1(=CC=CC=C1)C1=CN=C(N1)C=1C=CC(=NC1)N1CCNCC1 | C18H19N5
reactant | triethylamine | 1.58 mmol, 0.22 ml, 0.16 g, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-pyrimidine | 0.79 mmol, 0.90 mg, 1.5 equiv | ClC1=NC=CC=N1 | C4H3ClN2
reactant | triethylamine | 1.58 mmol, 0.22 ml, 0.16 g, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-pyrimidine | 0.79 mmol, 0.90 mg, 1.5 equiv | ClC1=NC=CC=N1 | C4H3ClN2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-{4-[5-(4-Phenyl-1H-imidazol-2-yl)-pyridin-2-yl]-piperazin-1-yl}-pyrimidine | 0.15 g, 74% | C1(=CC=CC=C1)C=1N=C(NC1)C=1C=CC(=NC1)N1CCN(CC1)C1=NC=CC=N1 | C22H21N7
